US08053457B2
[4-(Tetrahydro-furan-2-ylmethyl)-piperazin-1-yl]-acetonitrile
The title compound is synthesized by coupling of 1-(Tetrahydro-furan-2-ylmethyl)-piperazine (commercially available from CHESS GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a white solid; ES-MS: M+=210.2.

reactant | 1-(Tetrahydro-furan-2-ylmethyl)-piperazine | O1C(CCC1)CN1CCNCC1 | C9H18N2O
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | [4-(Tetrahydro-furan-2-ylmethyl)-piperazin-1-yl]-acetonitrile | O1C(CCC1)CN1CCN(CC1)CC#N | C11H19N3O
